US06509328B1
3-Oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic Acid Ethyl Ester
Prepared from 3-[1,2,4]triazol-4-yl-benzoic acid [prepared by reaction of 3-aminobenzoic acid with hydrazine hydrate and triethyl orthoformate in acetic acid at 120° C.] by activation with ethyl chloroformate/Et3N and reaction with ethyl malonate potassium salt with Et3N and MgCl2 in CH3CN according to general procedure H (method a). Obtained as a white solid (5.74 g).

reactant | 3-[1,2,4]triazol-4-yl-benzoic acid | N=1N=CN(C1)C=1C=C(C(=O)O)C=CC1 | C9H7N3O2
reactant | ethyl chloroformate Et3N | ClC(=O)OCC.CCN(CC)CC
reactant | ethyl malonate potassium salt | [K+].C(CC(=O)[O-])(=O)OCC
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
solvent | CH3CN | CC#N | C2H3N
solvent | Et3N | CCN(CC)CC | C6H15N
product | 3-Oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic Acid Ethyl Ester | 5.74 g | C(C)OC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O | C13H13N3O3
